US08871948B2
To a suspension of potassium ter-butoxide (0.41 g, 3.7 mmol) in anhydrous DMF (5 ml) a solution of 5-nitro-3-(phenylethynyl)pyridin-2-amine (0.70 g, 2.8 mmol), in DMF (25 ml) was added dropwise while stirring at room temperature. After 1.5 days, iodoethane (0.38 ml, 4.7 mmol) was added and the whole stirred for additional 1.5 days. To the reaction H2O (50 ml) and EtOAc (100 ml) were then added. The mixture was poured into a separatory funnel, the organic layer separated, the aqueous one thoroughly extracted with EtOAc (50 ml) and combined organic layers washed with brine (2×100 ml). The organic solvent was removed by evaporation under reduced pressure and the residue was purified by column chromatography on silica gel (Et2O/n-hexane, Et2O 10%→20%) to give 1-ethyl-2-(4-methylphenyl)-5-nitro-1H-pyrrolo[2,3-b]pyridine:

reactant | potassium ter-butoxide | 3.7 mmol, 0.41 g | CC(C)([O-])C.[K+]
reactant | 5-nitro-3-(phenylethynyl)pyridin-2-amine | 2.8 mmol, 0.70 g | [N+](=O)([O-])C=1C=C(C(=NC1)N)C#CC1=CC=CC=C1 | C13H9N3O2
reactant | iodoethane | 4.7 mmol, 0.38 ml | ICC | C2H5I
reactant | H2O | 50 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 1-ethyl-2-(4-methylphenyl)-5-nitro-1H-pyrrolo[2,3-b]pyridine | C(C)N1C(=CC=2C1=NC=C(C2)[N+](=O)[O-])C2=CC=C(C=C2)C | C16H15N3O2
